* Z:\mnt\design.r\spice\examples\3127.asc
XU1 0 N001 IN IN 0 N004 0 N003 N005 OUT N002 LTC3127
L1 N001 N002 4.7µ
V1 IN 0 3.6
R1 N004 0 32.4K
C1 N005 0 100p Rpar=499K
C2 OUT 0 2.2m
R2 OUT N003 320K
R3 N003 0 182K
.tran 10m startup
.lib LTC3127.sub
.backanno
.end
